Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
etodolac
 
Attending: ___
 
Chief Complaint:
dizziness 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year-old F w/ PMH of migraine d/o who presents 
with dizziness and transient diplopia.

Per pt, earlier this morning around ___eveloped 
acute onset of dizziness, further described a sense of 
imbalance, associated with "bumping in my head". Subsequently 
developed blurry vision w/ difficulty focusing that progressed 
into binocular horizontal diplopia (pt endorses closing each eye 
with resolution of double vision). Pt attempted to walk down 
stairs at work and noted that she was veering to R and having to 
close one eye to effectively do so. She also noted associated 
fatigue and head heaviness. Pt found somewhere to lie down after 
drinking some water due to concern for dehydration and after 
some time states she felt moderately better, with her double 
vision resolved. However, noted that when sitting up quickly 
from supine position the double vision would recur. Due to this 
constellation of sx, pt presented to BI ED for further 
evaluation. Denies associated headache, n/v, hearing 
changes/tinnitus, dysphagia, dysarthria, weakness, numbness, or 
other focal neurologic deficits. No recent f/c, infectious sx, 
or sick contacts. Pt endorses recent stress associated with her 
OT training program and sleep deprivation (normally sleeping ___ 
hours at night).  While pt denies having had similar sx 
previously, per documentation pt has had vertiginous sx in past 
not always associated with her migrainous headaches. 
 
Of note, pt has hx of chronic migraines normally treated at 
___ by Dr. ___ with Botox injections q3 months. 
However, due to insurance issues she has not received her 
injections since ___ and recently has been having migraines 
every other day. These are typified by aura of GI discomfort, 
flashing lights, and head pressure followed by bifrontal head 
pain, throbbing in nature, w/ associated nausea, photo- and 
phonophobia, and fatigue. Episode generally resolved after ___ 
hours, particularly when she takes Sumatriptan eearly in course. 
Triggered by stress. She has previously been trialed on 
Nortriptyline, Verapamil, Propranolol, Valproate, and Topirimate 
without relief or not tolerating side effects.

Neuro ROS+ for 2 wks of tingling in ulnar distribution (volar 
aspect of ___ digits) of LUE radiating up to elbow, onset 
after sleeping in unusual position

General ROS negative except as noted above

 
Past Medical History:
Hx of chronic migraines treated w/ Botox and Sumatriptan
DVT ___ yrs ago,not on AC at this time, attributed to OCP use 
(hypercoag w/u negative)
R shoulder arthroscopy in ___
Saphenous reflux s/p laser surgery
Herpes labialis
Obesity
Depression

 
Social History:
___
FAMILY HISTORY:

 
Family History:
M-Breast CA, deceased at age ___ 
S-Brain tumor dx after hx of migraines, deceased at age ___
Maternal uncle-brain tumor, deceased at age ___
Paternal uncle-lung CA, deceased at age ___  
PGM-lung CA, deceased at age ___                    

 
Physical Exam:
EXAM ON ADMISSION:

Vitals: T: 98.3 P: 97 BP: 149/96 RR: 18 O2sat: 99% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or 
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses 
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented to person, place, and date. Able 
to relate history without difficulty. Attentive, able to name 
___ backward without difficulty. Language is fluent with intact 
repetition and comprehension. Normal prosody. There were no 
paraphasic errors. Pt was able to name high frequency objects 
(limited by ESL). Speech was not dysarthric. Able to follow both 
midline and appendicular commands. Pt was able to register 3 
objects and recall ___ at 5 minutes. There was no evidence of 
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI with few beats 
of nystagmus on L. Head impulse test equivocal. ___ w/ 
R head version exacerbates sx but no torsional nystagmus. No 
skew deviation. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, or 
proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   trace
R  2  2    2    1   trace
Plantar response was withdrawal bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
Slight dyscoordination on HKS bilaterally. Mirror test 
unremarkable. Normal RAM.

-Gait: Good initiation. Slightly wide based, normal stride and 
arm swing.  Able to walk in tandem with some difficulty after 
few steps. Romberg absent. Untenberger's negative. 

EXAM ON DISCHARGE:
-Mental Status: Alert, oriented to person, place, and date. Able 
to relate history without difficulty. Attentive, able to name 
___ backward without difficulty. Language is fluent with intact 
repetition and comprehension. Normal prosody. There were no 
paraphasic errors. Pt was able to name high frequency objects 
(limited by ESL). Speech was not dysarthric. Able to follow both 
midline and appendicular commands. Pt was able to register 3 
objects and recall ___ at 5 minutes. There was no evidence of 
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 2mm and brisk. EOMI with few beats 
of nystagmus on L. Bilateral exotropia with cover/uncover. No 
skew deviaiton. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted. Symmetrical weakness in C5-C6 distribution consistent 
with radiculopathy:
  Delt Bic Infraspinatus Tri WrE FFl ABM 
L  4    4   4             ___    4  
R  4    4   4             ___    4 

-Sensory: No deficits to light touch, pinprick, or 
proprioception throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    1   trace
R  2  2    2    1   trace
Plantar response was withdrawal bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
Slight dyscoordination on HKS bilaterally. Mirror test 
unremarkable. Normal RAM.

-Gait: Good initiation. Slightly wide based, normal stride and 
arm swing.  Able to walk in tandem with some difficulty after 
few steps. Romberg absent. Untenberger's negative. 

 
Pertinent Results:
___ 10:07PM BLOOD WBC-8.3 RBC-4.67 Hgb-13.8 Hct-40.5 MCV-87 
MCH-29.6 MCHC-34.1 RDW-13.8 RDWSD-43.1 Plt ___
___ 10:07PM BLOOD Neuts-64.0 ___ Monos-8.1 Eos-1.6 
Baso-0.5 Im ___ AbsNeut-5.29 AbsLymp-2.08 AbsMono-0.67 
AbsEos-0.13 AbsBaso-0.04
___ 10:07PM BLOOD Glucose-102* UreaN-13 Creat-0.6 Na-139 
K-4.6 Cl-100 HCO3-25 AnGap-14
___ 01:29AM URINE Color-Straw Appear-Clear Sp ___

IMAGING:

Final Report 
EXAMINATION:  MR HEAD W/O CONTRAST 
  
INDICATION:  ___ year old woman with diplopia/ataxia// r/o any 
abnl 
  
TECHNIQUE:  MRI of the brain is performed and includes the 
following 
sequences: sagittal T1-weighted, axial fast spin echo 
T2-weighted,axial flair, 
axial diffusion weighted and axial gradient echo images . 
  
COMPARISON:  ___. 
  
FINDINGS:  
  
No acute infarcts are identified.  No mass effect midline shift 
or 
hydrocephalus.  Subtle hyperintensities in the white matter are 
unchanged.  
Fluid level is seen in the right maxillary sinus and mild 
mucosal thickening 
is seen in the anterior ethmoid air cells.  The vascular flow 
voids are 
maintained.  Suprasellar and craniocervical regions are 
unremarkable.  No 
micro hemorrhages are seen. 
  
IMPRESSION:  
  
No acute infarcts are identified.  Fluid level indicating 
inflammatory changes 
in the right maxillary sinus. 
  

 
Brief Hospital Course:
Pt is a ___ F w/ hx migraines and DVT in setting of OC use ___ 
years ago) who presented with ~14 hours of dizziness and 
transient diplopia. Exam on admission was notable for mild 
dyscoordination on HKS bilaterally. HINTS exam was negative. She 
was admitted for a stroke work-up. Her symptoms lasted for 
___ hours and resolved by the next morning. MR imaging of her 
brain was negative for acute infarct. 

Re-examination the next morning demonstrated symmetrical upper 
extremity weakness in radicular pattern, with weakness in 
infraspinatus, biceps, and ADM. She was also noted to have a 
tense neck. Her dizziness and diplopia resolved. 

Leading diagnosis for her vague dizzy spell is cervical 
radiculopathy. Her symptoms lasted longer than expected for TIA 
and her MR imaging was negative for acute stroke. 

She was discharged to home in stable condition with instructions 
to follow-up with her outpatient PCP and neurologist. 

Transitional Issues:

- follow up for cervical radiculopathy in outpatient setting
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sumatriptan Succinate 100 mg PO PRN severe headache 
2. BuPROPion XL (Once Daily) 150 mg PO DAILY 

 
Discharge Medications:
1.  BuPROPion XL (Once Daily) 150 mg PO DAILY  
2.  Sumatriptan Succinate 100 mg PO PRN severe headache  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Disequilibrium
Headache
Transient diplopia
Bilateral cervical radiculopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because of double vision and 
unsteadiness. We performed an MRI of your brain, which did not 
show an acute stroke or tumor. Your symptoms improved 
spontaneously. We believe the unsteadiness is from 
disequilibrium, which could be coming from pinched nerves in 
your neck due to spasm of the muscles of your head and neck. 
This is likely also contributing to your headaches. The cause of 
your double vision is unclear, but could be related to mild 
weakness of your eye muscles, which could be congenital in 
nature. You should follow up with your usual Neurologist to 
continue to manage your headaches and cervical neck spasm, and 
to determine whether you need further tests and/or imaging.

For the time being, you should use heat compresses to help with 
your neck spasm, and you may wear a soft cervical collar to 
sleep at night.

It was a pleasure taking care of you. We wish you the best.
Sincerely,
Your ___ Care Team
 
Followup Instructions:
___